US09260429B2
(B) 2-(1-(2-cyclohexylethyl)-5-methyl-1H-indol-3-yl)-N-methylethanamine
The title compound was prepared by General Method 3. A solution of 1-(2-cyclohexylethyl)-1-p-tolylhydrazine (0.15 g) in water (1 mL) and conc. HCl (0.18 mL) was heated to 60° C. EtOH (1 mL) was added followed by 4,4-diethoxy-N-methylbutan-1-amine (0.12 g) and the temperature was raised to 90° C. Conc. HCl (0.1 mL) was added and the heating was continued for an additional 6 h after which the reaction mixture was cooled and stirred at 25° C. for 12 h. The reaction mixture was concentrated under reduced pressure and the residue was purified by silica gel chromatography (eluent EtOAc/EtOH/NH3: 9/1/0.1) to obtain 79 mg of product.

reactant | 1-(2-cyclohexylethyl)-1-p-tolylhydrazine | 0.15 g | C1(CCCCC1)CCN(N)C1=CC=C(C=C1)C | C15H24N2
reactant | EtOH | 1 mL | CCO | C2H6O
reactant | 4,4-diethoxy-N-methylbutan-1-amine | 0.12 g | C(C)OC(CCCNC)OCC | C9H21NO2
solvent | water | 1 mL | O | H2O
solvent | HCl | 0.18 mL | Cl | ClH
solvent | HCl | 0.1 mL | Cl | ClH
product | 2-(1-(2-cyclohexylethyl)-5-methyl-1H-indol-3-yl)-N-methylethanamine | C1(CCCCC1)CCN1C=C(C2=CC(=CC=C12)C)CCNC | C20H30N2
